US04235996
A solution of 15.0 g. of 2-chloroanthracene in 60.8 g. of vinylene carbonate is refluxed for 20 hours and then vacuum distilled. The residue is recrystallized from methylene chloride-methanol giving cis-2-chloro-9,10-dihydro-9,10-ethanoanthracene-11,12-diol, cyclic carbonate as gray crystals, m.p. 200°-230° C.

reactant | 2-chloroanthracene | ClC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Cl
reactant | vinylene carbonate | C1(OC=CO1)=O | C3H2O3
product | cis-2-chloro-9,10-dihydro-9,10-ethanoanthracene-11,12-diol | ClC1=CC=2[C@@H]3C4=CC=CC=C4[C@H](C2C=C1)C(C3O)O | C16H13ClO2
